US09056859B2
A mixture of tert-butyl 4-[(7-bromo-1-benzofuran-3-yl)methyl]piperazine-1-carboxylate (100 mg, 0.253 mmol), Pd(PPh3)2Cl2 (10 mg, 0.0142 mmol) and TEA (2 mL) in 20 mL of MeOH was heated at 100° C. under CO (3 MPa) overnight. After cooling, the mixture was filtered. The filtrate was then partitioned between EtOAc and water. The combined organics were washed with water (150 mL) and brine (150 mL), dried over Na2SO4 and concentrated to give tert-butyl 4-{[7-(methoxycarbonyl)-1-benzofuran-3-yl]methyl}piperazine-1-carboxylate. 1H-NMR (400 MHz, CDCL3) δ ppm 7.88-7.91 (m, 2H), 7.59 (s, 1H), 7.24 (t, J=7.6 Hz, 1H), 3.94 (s, 3H), 3.59 (s, 2H), 3.30-3.50 (m, 4H), 2.30-2.40 (m, 4H), 1.39 (s, 9H); MS m/z 375 (M+1)+.

reactant | tert-butyl 4-[(7-bromo-1-benzofuran-3-yl)methyl]piperazine-1-carboxylate | 0.253 mmol, 100 mg | BrC1=CC=CC=2C(=COC21)CN2CCN(CC2)C(=O)OC(C)(C)C | C18H23BrN2O3
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd(PPh3)2Cl2 | 0.0142 mmol, 10 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl 4-{[7-(methoxycarbonyl)-1-benzofuran-3-yl]methyl}piperazine-1-carboxylate | COC(=O)C1=CC=CC=2C(=COC21)CN2CCN(CC2)C(=O)OC(C)(C)C | C20H26N2O5
